US08124629B2
An oven-dried round-bottom flask was charged with (6-fluoro-3-methyl-4-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid methyl ester (1.00 g, 2.63 mmol), potassium acetate (1.3 g, 13.2 mmol), dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium (II) (288 mg, 0.394 mmol), 1,1′-bis(diphenylphosphino)ferrocene (220 mg, 0.390 mmol), bis(pinacolato)diboron (1.33 g, 5.25 mmol), and 1,4-dioxane (36 mL). The resulting mixture was heated at 120° C. for 10 hours. The reaction mixture was cooled to room temperature, then stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, then washed with brine. The organic phase was dried over MgSO4, filtered, and concentrated to afford a dark oil. A solution of the crude product and dichloromethane was evaporated over silica gel, and the resulting silica gel supported crude product was loaded onto an Analogix SF40 Super Flash column. Flash chromatography (0%-10% ethyl acetate in hexane) furnished [6-fluoro-3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-acetic acid methyl ester as 290 mg (31%) of a clear oil. 1H NMR (300 MHz, CDCl3) δ ppm 7.64-7.78 (m, 3 H), 7.17 (t, J=8.6 Hz, 1 H), 3.79 (s, 2 H), 3.69 (s, 3 H), 2.56 (s, 3 H), 1.50 (s, 12 H). MS (ES+) cald. for C20H24BFO4 [(M+H)+] 359, obsd. 359.

reactant | (6-fluoro-3-methyl-4-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid methyl ester | 2.63 mmol, 1.00 g | COC(CC1=CC2=CC=C(C=C2C(=C1C)OS(=O)(=O)C(F)(F)F)F)=O | C15H12F4O5S
reactant | potassium acetate | 13.2 mmol, 1.3 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 5.25 mmol, 1.33 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1,4-dioxane | 36 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium (II) | 0.394 mmol, 288 mg | [Pd+2].ClC1=C([C-](C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.390 mmol, 220 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [6-fluoro-3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-acetic acid methyl ester | COC(CC1=CC2=CC=C(C=C2C(=C1C)B1OC(C(O1)(C)C)(C)C)F)=O | C20H24BFO4
